* source TEST
M_M1         VOUT VIN N00180 N00180 MbreakPD  
+ L=180n  
+ W=1200n    
+ PD=960n  
+ PS=960n     
M_M2         VOUT VIN 0 0 MbreakND  
+ L=180n  
+ W=240n    
+ PD=960n  
+ PS=960n     
V_V1         N00180 0 1.8Vdc
V_V2         VIN 0  
+PULSE 0 1.8 0 10p 10p 490p 1n
