* source TEST
M_NOT1_M1         OUT1 IN N00479 N00479 MbreakPD  
+ L=180n  
+ W=240n         
M_NOT1_M2         OUT1 IN 0 0 MbreakND  
+ L=180n  
+ W=240n         
V_V1         N00479 0 1.8Vdc
V_V2         IN 0  
+PULSE 0 1.8 0 10p 10p 490p 1n
M_NOT2_M1         OUT2 OUT1 N00479 N00479 MbreakPD  
+ L=180n  
+ W=240n         
M_NOT2_M2         OUT2 OUT1 0 0 MbreakND  
+ L=180n  
+ W=240n         
M_NOT3_M1         N00701 OUT1 N00479 N00479 MbreakPD  
+ L=180n  
+ W=240n         
M_NOT3_M2         N00701 OUT1 0 0 MbreakND  
+ L=180n  
+ W=240n         
